US04697021
The above intermediate 5-hydrazino-1,6-naphthyridin-2(1H)-one as its monohydrochloride monohydrate was prepared as follows. A mixture containing 30 g of 5-bromo-1,6-naphthyridin-2(1H)-one and 20.2 ml of hydrazine hydrate was heated to reflux and then heated for an additional 2 hours. The reaction mixture was concentrated on a rotary evaporator and the residue was slurried in concentrated hydrochloric acid. The solid was collected, washed with concentrated hydrochloric acid, dried in a vacuum oven at 75° C. The solid was then slurried in water, collected by filtration, washed with water and dried in a vacuum oven at 90° C. to yield 25.2 g of 5-hydrazino-1,6-naphthyridin-2(1H)-one monohydrochloride monohydrate, m.p. >310° C. with decomposition.

reactant | 5-hydrazino-1,6-naphthyridin-2(1H)-one | N(N)C1=C2C=CC(NC2=CC=N1)=O | C8H8N4O
reactant | monohydrochloride monohydrate | O.Cl
reactant | 5-bromo-1,6-naphthyridin-2(1H)-one | 30 g | BrC1=C2C=CC(NC2=CC=N1)=O | C8H5BrN2O
reactant | hydrazine hydrate | 20.2 ml | O.NN
product | 5-hydrazino-1,6-naphthyridin-2(1H)-one monohydrochloride monohydrate | 25.2 g | O.Cl.N(N)C1=C2C=CC(NC2=CC=N1)=O | InChI=1S/C8H8N4O.ClH.H2O/c9-12-8-5-1-2-7(13)11-6(5)3-4-10-8;;/h1-4H,9H2,(H,10,12)(H,11,13);1H;1H2
